US06660753B2
In a similar fashion, 3-(2-pyridyl)-5-(5-bromo-2-fluorophenyl)-1,2,4-oxadiazole (100 mg, 0.312 mmol), pyridine-2-tributyltin (172 mg, 0.468 mmol) and Pd(PPh3)4 (36.1 mg, 0.0312 mmol) in tetrahydrofuran (1 mL) was heated in sealed vial overnight at 100° C. Standard work up afforded 11.3 mg (11%) of 3-(2-pyridyl)-5-[2-fluoro-5-(2-pyridyl)phenyl]-1,2,4-oxadiazole.

reactant | 3-(2-pyridyl)-5-(5-bromo-2-fluorophenyl)-1,2,4-oxadiazole | 0.312 mmol, 100 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=C(C=CC(=C1)Br)F | C13H7BrFN3O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.0312 mmol, 36.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-pyridyl)-5-[2-fluoro-5-(2-pyridyl)phenyl]-1,2,4-oxadiazole | 11.3 mg, 11% | N1=C(C=CC=C1)C1=NOC(=N1)C1=C(C=CC(=C1)C1=NC=CC=C1)F | C18H11FN4O
